US07365231B2
2,3-Bis(4-amino-3-hydroxyphenoxy)naphthalene was synthesized in a manner analogous to Example 2 from 2,3-bis(3-hydroxy-4-nitrophenoxy)naphthalene. Yield: 82.4%; mp 196˜197° C., IR (KBr) 3292, 3352, 1497 cm−1; MS (EI) m/z 374 (M+, 100); Elemental Anal. Calcd. for C22H18N2O4: C, 70.59; H, 4.81; N, 7.49. Found: C, 70.38; H, 4.87; N, 7.43.

reactant | 2,3-bis(3-hydroxy-4-nitrophenoxy)naphthalene | OC=1C=C(OC2=CC3=CC=CC=C3C=C2OC2=CC(=C(C=C2)[N+](=O)[O-])O)C=CC1[N+](=O)[O-] | C22H14N2O8
reactant | KBr | [K+].[Br-]
product | 2,3-Bis(4-amino-3-hydroxyphenoxy)naphthalene | Yield: 82.4% | NC1=C(C=C(OC2=CC3=CC=CC=C3C=C2OC2=CC(=C(C=C2)N)O)C=C1)O | C22H18N2O4
